US09353062B2
Preparation of (E)-N-(3-cyano-7-ethoxy-4-((4-phenoxyphenyl)amino)quinolin-6-yl)-4-(dimethylamino)but-2-enamide (Compound 12)
A solution of 4-N,N-dimethyl-aminocrotonic acid hydrochloride (1.28 g) in THF (18 mL) and a catalytic amount of DMF was cooled to 5° C., the oxalyl chloride (0.67 mL) was added dropwise. The mixture was then warmed to room temperature and stirred for 3 hours. A solution of 6-amino-7-ethoxy-4-((4-phenoxyphenyl)amino)quinoline-3-carbonitrile in N-methyl-2-pyrrolidinone (20 ml) was added dropwise over 10 minutes. The reaction mixture was stirred overnight and then quenched with water. Aqueous sodium hydroxide was added slowly to bring the pH to 11. It was stirred for another 1 hour and the resulting precipitate was filtered and washed with water. The wet solid was recrystallized in acetonitrile and THF and dried to give desired product (E)-N-(3-cyano-7-ethoxy-4-((4-phenoxyphenyl)amino)quinolin-6-yl)-4-(dimethylamino)but-2-enamide (1.56 g). 1H-NMR (400 MHz, CDCl3, ppm): 9.17 (1H, s), 8.52 (1H, s), 8.10 (1H, s), 7.37-6.97, (13H, m), 6.20 (1H, d, J=15.6 Hz), 4.32 (2H, q, J=7.2 Hz), 3.17-3.15 (2H, m), 2.31 (6H, s), 1.57-1.69 (3H, t, J=7.2 Hz). MS m/z 508.3[M+1].

reactant | DMF | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.67 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-amino-7-ethoxy-4-((4-phenoxyphenyl)amino)quinoline-3-carbonitrile | NC=1C=C2C(=C(C=NC2=CC1OCC)C#N)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C24H20N4O2
reactant | THF | 18 mL | C1CCOC1 | C4H8O
solvent | N-methyl-2-pyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | (E)-N-(3-cyano-7-ethoxy-4-((4-phenoxyphenyl)amino)quinolin-6-yl)-4-(dimethylamino)but-2-enamide | 1.56 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=CC=C(C=C1)OC1=CC=CC=C1)NC(\C=C\CN(C)C)=O)OCC | C30H29N5O3
